US08183272B2
(1R)-1-(2-Bromo-5-fluorophenyl)propan-1-ol
With reference to Chirality, 2005, 17, 476-480, 1.06 M solution of diethyl zinc in hexane (18.6 ml, 19.7 mmol) was added dropwise under ice cooling to a solution of 1-[(S)-(2-methoxy phenyl){[(1S)-1-phenylethyl]amino}methyl]-2-naphthol (0.38 g, 0.99 mmol) in toluene (5 ml). The mixture was stirred at room temperature for 1 hour. After stirring, the mixture was added with 2-bromo-5-fluorobenzaldehyde (2.0 g, 9.85 mmol) under ice cooling and stirred at room temperature for 16 hours. The reaction solution was added with 1 N aqueous hydrochloride solution and extracted with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=5/1) to give the title compound as a transparent oily substance (1.81 g, yield 79%).

reactant | diethyl zinc | C(C)[Zn]CC
reactant | hexane | 19.7 mmol, 18.6 ml | CCCCCC | C6H14
reactant | 1-[(S)-(2-methoxy phenyl){[(1S)-1-phenylethyl]amino}methyl]-2-naphthol | 0.99 mmol, 0.38 g | COC1=C(C=CC=C1)[C@@H](C1=C(C=CC2=CC=CC=C12)O)N[C@@H](C)C1=CC=CC=C1 | C26H25NO2
reactant | 2-bromo-5-fluorobenzaldehyde | 9.85 mmol, 2.0 g | BrC1=C(C=O)C=C(C=C1)F | C7H4BrFO
reactant | hydrochloride | 1 N | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (1R)-1-(2-Bromo-5-fluorophenyl)propan-1-ol | yield 79% | BrC1=C(C=C(C=C1)F)[C@@H](CC)O | C9H10BrFO
